US08097628B2
(a) Ethyl 5-chloro-6-iodo-3-pyridinecarboxylate
To a solution of ethyl 5,6-dichloro-3-pyridinecarboxylate (1.00 g, 4.54 mmol) in propionitrile (30 ml) stirred under nitrogen at room temperature was added sodium iodide (2.044 g, 13.63 mmol) and iodotrimethylsilane (0.784 ml, 4.54 mmol). After stirring for 30 min, solvent was evaporated to dryness. The obtained brown oil was dissolved in water and pH was adjusted to basic with 2N NaOH. The aqueous phase was extracted with DCM, dried over anhydrous MgSO4 and concentrated under reduced pressure. Purification by flash chromatography using Flashmaster II, a 10 g silica gel cartridge, and mixtures of DCM/MeOH as eluent afforded a mixture of final product and ethyl 5-chloro-3-pyridinecarboxylate. The mixture was repurification by flash chromatography using Flashmaster II, a 50 g Merck silica gel cartridge, and mixtures of DCM/MeOH as eluent afforded the expected product ethyl 5-chloro-6-iodo-3-pyridinecarboxylate as a white solid.

reactant | ethyl 5,6-dichloro-3-pyridinecarboxylate | 4.54 mmol, 1.00 g | ClC=1C=C(C=NC1Cl)C(=O)OCC | C8H7Cl2NO2
reactant | sodium iodide | 13.63 mmol, 2.044 g | [I-].[Na+]
reactant | iodotrimethylsilane | 4.54 mmol, 0.784 ml | I[Si](C)(C)C | C3H9ISi
reactant | ethyl 5-chloro-3-pyridinecarboxylate | ClC=1C=C(C=NC1)C(=O)OCC | C8H8ClNO2
solvent | propionitrile | 30 ml | C(CC)#N | C3H5N
product | Ethyl 5-chloro-6-iodo-3-pyridinecarboxylate | ClC=1C=C(C=NC1I)C(=O)OCC | C8H7ClINO2
